US07645789B2
To a stirred solution (R)—N-(1-(3-amino-2-hydroxypropyl)-2-tert-butyl-1H-indol-5-yl)-1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamide (0.10 g, 0.20 mmol) in methanol (1 mL) was added 2 drops of triethylamine and methylchloroformyl chloride (0.020 mL, 0.25 mmol). After 30 min, the reaction mixture was filtered and purified using reverse phase HPLC providing (S)-methyl 3-(2-tert-butyl-5-(1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)cyclo-propanecarboxamido)-1H-indol-1-yl)-2-hydroxypropylcarbamate. The retention time on a three minute run is 1.40 min. LC/MS (M+1)=544.3. 1H NMR (400 MHz, CDCl3) δ 7.52 (d, 1H, J=2 Hz), 7.30 (dd, 1H, J=2, 8 Hz), 7.28 (m, 1H), 7.22 (d, 1H, J=8 Hz), 7.14 (d, 1H, J=8 Hz), 7.04 (br s, 1H), 6.97 (dd, 1H, J=2, 8 Hz), 6.24 (s, 1H), 5.19 (1H, br s), 4.31 (dd, 1H, J=6, 15 Hz), 4.28 (dd, 1H, J=11, 15 Hz), 4.18 (m, 1H), 3.70 (s, 3H), 3.40 (dd, 1H, J=3, 6 Hz), 3.36 (dd, 1H, J=3, 6 Hz), 3.26 (m, 1H), 1.74 (m, 2H), 1.40 (s, 9H), 1.11 (m, 2H).

reactant | (R)—N-(1-(3-amino-2-hydroxypropyl)-2-tert-butyl-1H-indol-5-yl)-1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamide | 0.20 mmol, 0.10 g | NC[C@H](CN1C(=CC2=CC(=CC=C12)NC(=O)C1(CC1)C1=CC2=C(OC(O2)(F)F)C=C1)C(C)(C)C)O | C26H29F2N3O4
solvent | methanol | 1 mL | CO | CH4O
catalyst | triethylamine | 2 drops | C(C)N(CC)CC | C6H15N
product | (S)-methyl 3-(2-tert-butyl-5-(1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)cyclo-propanecarboxamido)-1H-indol-1-yl)-2-hydroxypropylcarbamate | C(C)(C)(C)C=1N(C2=CC=C(C=C2C1)NC(=O)C1(CC1)C1=CC2=C(OC(O2)(F)F)C=C1)C[C@H](CNC(OC)=O)O | C28H31F2N3O6
